US07888513B2
Under an argon atmosphere, a mixture of methyl benzoate (1.5 mmol), (L)-valinol (1.8 mmol), Zn4(OCOCF3)6O (0.15 mmol in terms of the number of moles of zinc atom; the number of moles of the zinc compound used in the following Examples is also shown in terms of the number of moles of zinc atom) and chlorobenzene (2.5 mL) was heated under reflux for 12 hours. From the resulting solution, the solvent was removed using an evaporator, and the residues were purified by silica gel column chromatography (hexane/ethyl acetate=10/1 (V/V)) to give (S)-4-isopropyl-2-phenyl-1,3-oxazoline in 83% yield.

reactant | methyl benzoate | 1.5 mmol | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | (L)-valinol | 1.8 mmol | N[C@@H](C(C)C)CO | C5H13NO
catalyst | zinc | [Zn] | Zn
solvent | chlorobenzene | 2.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (S)-4-isopropyl-2-phenyl-1,3-oxazoline | 83% yield | C(C)(C)[C@@H]1N=C(OC1)C1=CC=CC=C1 | C12H15NO
